US07312330B2
(4-tert-Butyl-phenyl)-[7-(3-methanesulfonyl-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-amine
A mixture of N-(4-tert-butylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (0.066 g, 0.23 mmol), 2-chloro-3-(methylsulfonyl)pyridine (Ponticello et al, J. Org. Chem., 44(17), 1979), (0.088 g, 0.47 mmol) and N,N-diisopropylethlamine (0.041 mL, 0.23 mmol) was heated in a sealed tube via microwave (Emrys Optimizer model, Personal Chemistry) for 30 min at 150° C. The reaction mixture was cooled to r.t. and poured into water (20 mL). The mixture was extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated to leave an oil which was purified by silica gel chromatography (ethyl acetate/hexane gradient) to give the title compound as a white solid (0.049 g).

reactant | N-(4-tert-butylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.23 mmol, 0.066 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2 | C17H22N4
reactant | 2-chloro-3-(methylsulfonyl)pyridine | 0.47 mmol, 0.088 g | ClC1=NC=CC=C1S(=O)(=O)C | C6H6ClNO2S
reactant | N,N-diisopropylethlamine | 0.23 mmol, 0.041 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | 20 mL | O | H2O
product | (4-tert-Butyl-phenyl)-[7-(3-methanesulfonyl-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-amine | 0.049 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2S(=O)(=O)C | C23H27N5O2S
